US05250679
a magnetically stirred solution of 5 grams of 5-iodoisatoic anhydride (0.0173 mol), 5.85 grams of β-alanine benzyl ester tosylate (0.0173 mol), 35 mL pyridine, and 0.5 of dimethylaminopyridine (0.0041 mol) was heated to 80° C. for 2 hrs. The reaction mixture was allowed to cool to room temperature and concentrated in vacuo. The resulting residue was dissolved in 100 mL ethyl acetate and washed 2×50 mL of 10% cupric sulfate, 1×50 mL sat. sodium bicarbonate, 1×50 mL brine, dried over sodium sulfate, filtered and concentrated in vacuo. The product was further purified by column chromatography, using silica gel, eluting with a 1:1 mixture of ethyl acetate and hexane (TLC, SiO2, 1:1 EtOAc/hexane, Rf =0.65, υν positive) to yield 1.85 grams (25%) of N-(2-amino-5-iodobenzoyl)-β-alanine benzyl ester. 1H NMR (CDCl3, δTMS) 7.54 (1H, d, 4JHH =2 Hz, Ar--H, o-CON), 7.42 (1H, dd, 3JHH =9 Hz, 4JHH =2 Hz, Ar--H p-CON), 7.38-7.32 (5H, s, ArH Ph), 6.65 (1H, bt, 3JHH =6 Hz, CONH), 6.46 (1H, d, 3JHH =9 Hz, Ar--H m-CON), 5.16 (2H, s, OCH2), 3.68 (2H, q, 3JHH 6 Hz, NCH2), 2.69 (2H, t, 3JHH =6 Hz, CH2CO2). 13C NMR (CDCl3, δTMS) 172.4, 167.8, 148.6, 140.6, 135.6, 135.5, 128.7, 128.4, 128.3, 119.3, 118.1, 76.3, 66.7, 35.2, 34.0.

reactant | 5-iodoisatoic anhydride | 0.0173 mol, 5 grams | IC1=CC=C2C(C(=O)OC(N2)=O)=C1 | C8H4INO3
reactant | β-alanine benzyl ester tosylate | 0.0173 mol, 5.85 grams | S(=O)(=O)(O)C1=CC=C(C)C=C1.C(C1=CC=CC=C1)OC(CCN)=O
reactant | dimethylaminopyridine | 0.0041 mol | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | pyridine | 35 mL | N1=CC=CC=C1 | C5H5N
product | N-(2-amino-5-iodobenzoyl)-β-alanine benzyl ester | 1.85 grams, 25% | C(C1=CC=CC=C1)OC(CCNC(C1=C(C=CC(=C1)I)N)=O)=O | C17H17IN2O3
